*Ideal Transformer Subcircuit Parameters
*RATIO1 = turns ratio (= secondary1/primary)
*RATIO2 = turns ratio (= secondary2/primary)
*RATIO3 = turns ratio (= secondary3/primary)
*
*Ideal Transformer with four windings
*dw 18/12/00: created
*Connections:
*               Pri+
*               | Pri-
*               | | Sec1+
*               | | | Sec1-
*               | | | | Sec2+
*               | | | | | Sec2-
*               | | | | | | Sec3+
*               | | | | | | | Sec3-
*               | | | | | | | |
.SUBCKT IDEAL4W 1 2 3 4 5 6 7 8 PARAMS: RATIO1=1 RATIO2=1 RATIO3=1
BP  1 2 I=( -I(BS1)*{RATIO1} - I(BS2)*{RATIO2} - I(BS3)*{RATIO3} )
BS1 3 4 V=( V(1,2)*{RATIO1} )
BS2 5 6 V=( V(1,2)*{RATIO2} )
BS3 7 8 V=( V(1,2)*{RATIO3} )
.ENDS IDEAL4W